US08748613B2
Ethyl 2-(4-methylpiperidin-1-yl)-2-phenylacetate (225 mg, 0.86 mmol) and 37% aq HCl (0.52 ml, 17.2 mmol) were dissolved in Dioxane (7 ml) and heated under microwave irradiation into a sealed vial at 100° C. for 8 hours. The solvents were evaporated, the residue was suspended in EtOAc and evaporated. The residue was suspended in EtOAc/Et2O (1/1), sonicated and filtered under suction to obtain 2-(4-methylpiperidin-1-yl)-2-phenylacetic acid hydrochloride (223 mg, 96% yield) as a white solid

reactant | Ethyl 2-(4-methylpiperidin-1-yl)-2-phenylacetate | 0.86 mmol, 225 mg | CC1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C16H23NO2
reactant | HCl | 17.2 mmol, 0.52 ml | Cl | ClH
solvent | Dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 2-(4-methylpiperidin-1-yl)-2-phenylacetic acid hydrochloride | 223 mg, 96% yield | Cl.CC1CCN(CC1)C(C(=O)O)C1=CC=CC=C1 | InChI=1S/C14H19NO2.ClH/c1-11-7-9-15(10-8-11)13(14(16)17)12-5-3-2-4-6-12;/h2-6,11,13H,7-10H2,1H3,(H,16,17);1H
